US04014920
9.4 g (0.038 mol) of 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane are dissolved in 200 ml of isopropanol, 3.25 ml (0.038 mol) of isopropylamine are added and thereafter the mixture is heated to the boil for 3 hours, under a reflux condenser. It is then evaporated in vacuo and the resulting crude base is crystallised from acetoneether. 1-[p-(2-Methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylamino-propane of melting point 128°-129°C is obtained.

reactant | 1-[p-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.038 mol, 9.4 g | COC(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C13H15NO4
reactant | isopropylamine | 0.038 mol, 3.25 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-[p-(2-Methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylamino-propane | COC(=O)NC=CC1=CC=C(OCC(CNC(C)C)O)C=C1 | C16H24N2O4
